US05602170
Synthesis of 5-(2-carboxy-1-ethenyl)-2,2'-bithiophene
3.88 g of 5-formyl-2,2'-bithiophene, 4.16 g of malonic acid, 15.5 ml of pyridine and 1.4 g of piperidine were heated and stirred at 90° C. in oil bath for 2 hours. Then raised the temperature to 120° C. for 10 minutes. The reaction mixture was cooled down to room temperature and diluted with 100 ml of distilled water. 40 ml of concentrated HCl was added to acidify the solution. The orange precipitate thus crystallized was further purified by silica gel chromatography. From the eluate of acetone/n-hexane (2/5), 2.95 g of product was thus obtained and the melting point thereof was 175° C. (M+ : 236). 0.16 g of pure 5-(2-dicarboxy-ethenyl)-2,2'-bithiophene was also obtained and the melting point thereof was 220°-221° C.

reactant | 5-formyl-2,2'-bithiophene | 3.88 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | malonic acid | 4.16 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1.4 g | N1CCCCC1 | C5H11N
reactant | HCl | 40 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | pyridine | 15.5 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-carboxy-1-ethenyl)-2,2'-bithiophene | 2.95 g | C(=O)(O)C=CC1=CC=C(S1)C=1SC=CC1 | C11H8O2S2
